US07399778B2
E. 5-Chloro-N-{2-ethyl-1-[1-(4-methoxyphenyl)-1H-pyrazol-5-yl]butyl}thiophene-2-sulfonamide
To a stirred solution of the {2-ethyl-1-[1-(4-methoxyphenyl)-1H-pyrazol-5-yl]butyl}amine (0.77 g, 2.8 mmol) in CH2Cl2 (30 mL) was added triethylamine (0.59 mL, 4.2 mmol) and 5-chlorothiophene-2-sulfonylchloride (0.73 g, 3.4 mmol). The reaction mixture was concentrated in vacuo, diluted with EtOAc, washed twice with 1N HCl, dried (MgSO4), filtered and concentrated in vacuo. The resulting oil was purified by column chromatography (SiO2, EtOAc/hexane, 1:4) to yield a tan solid in 54% yield.

reactant | {2-ethyl-1-[1-(4-methoxyphenyl)-1H-pyrazol-5-yl]butyl}amine | 2.8 mmol, 0.77 g | C(C)C(C(C1=CC=NN1C1=CC=C(C=C1)OC)N)CC | C16H23N3O
reactant | triethylamine | 4.2 mmol, 0.59 mL | C(C)N(CC)CC | C6H15N
reactant | 5-chlorothiophene-2-sulfonylchloride | 3.4 mmol, 0.73 g | ClC1=CC=C(S1)S(=O)(=O)Cl | C4H2Cl2O2S2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 5-Chloro-N-{2-ethyl-1-[1-(4-methoxyphenyl)-1H-pyrazol-5-yl]butyl}thiophene-2-sulfonamide | 54% yield | ClC1=CC=C(S1)S(=O)(=O)NC(C(CC)CC)C1=CC=NN1C1=CC=C(C=C1)OC | C20H24ClN3O3S2
